US07405228B2
(R)-{3-[4-(4-(1-cyanoethylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol
The title compound was prepared by following the procedure of Example 1 and by using (R)-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol and diethyl(1-cyanoethyl)-phosphonate in 63% yield.

reactant | (R)-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C15H17FN2O4
reactant | diethyl(1-cyanoethyl)-phosphonate | C(C)OP(OCC)(=O)C(C)C#N | C7H14NO3P
product | (R)-{3-[4-(4-(1-cyanoethylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol | 63% yield | C(#N)C(C)=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C18H20FN3O3
